US09328106B2
To a solution of 2-methyl-7-(2-methyl-4-nitro-pyrazol-3-yl)oxepan-4-one (65 mg, 0.26 mmol) in THF (1 mL) under nitrogen cooled to −78° C. was added dropwise a solution of L-selectride (1 M in THF, 0.28 mL, 0.28 mmol). After 1 hr the mixture was quenched with MeOH (1 mL) and warmed to room temperature. EtOAc (10 mL) and brine (10 mL) were added and the layers separated. The aqueous layer was extracted with EtOAc (3×10 mL) and the combined organic layers were washed with brine (10 mL), separated, dried over Na2SO4 and concentrated under reduced pressure. Purification via silica gel column chromatography (0-100% EtOAc/isohexane) gave 2-methyl-7-(2-methyl-4-nitro-pyrazol-3-yl)oxepan-4-ol as a colourless solid (54 mg, 81%). 1H NMR (400 MHz, CDCl3) δ 8.01 (2s, 1H), 5.63-5.59 and 5.56-5.50 (2m, 1H), 4.26-4.01 (m, 5H), 3.88-3.73 (m, 1H), 2.21-1.72 (m, 4H), 1.28-1.23 (m, 3H), 0.99-0.81 (m, 2H).

reactant | 2-methyl-7-(2-methyl-4-nitro-pyrazol-3-yl)oxepan-4-one | 0.26 mmol, 65 mg | CC1OC(CCC(C1)=O)C=1N(N=CC1[N+](=O)[O-])C | C11H15N3O4
reactant | L-selectride | 0.28 mmol, 1 M, 0.28 mL | CCC([BH-](C(CC)C)C(CC)C)C.[Li+]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 2-methyl-7-(2-methyl-4-nitro-pyrazol-3-yl)oxepan-4-ol | 54 mg, 81% | CC1OC(CCC(C1)O)C=1N(N=CC1[N+](=O)[O-])C | C11H17N3O4
